US07700641B2
Synthesis of 7′-fluoro-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 1, and making non-critical variations using 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (32%) as a white solid: mp 116-118° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.36-6.88 (m, 4H), 6.67 (s, 1H), 6.62 (d, 1H), 6.19 (s, 1H), 5.90 (d, 2H), 5.07 (q, 2H), 4.75 (dd, 2H); 13C NMR (75 MHz, DMSO-d6) δ176.9, 155.8, 154.1, 149.1, 148.8, 145.6, 142.4, 140.9, 140.3, 139.2, 139.2, 135.2, 135.2, 128.5, 128.4, 124.9, 128.4, 124.9, 124.8, 124.7, 121.2, 120.4, 120.4, 119.8, 117.6, 117.2, 117.0, 114.5, 114.5, 109.5, 103.2, 102.0, 93.8, 80.1, 58.3, 58.2, 39.0, 38.9; MS (ES+) m/z 448.3 (M+1).

reactant | 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | FC=1C=CC=C2C(C(N(C12)CC=1OC(=CC1)C(F)(F)F)=O)(CO)C1=CC2=C(OCO2)C=C1O | C22H15F4NO6
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 7′-fluoro-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | FC=1C=CC=C2C3(C(N(C12)CC=1OC(=CC1)C(F)(F)F)=O)COC=1C3=CC3=C(OCO3)C1 | C22H13F4NO5
